Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([C:4]#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.27037060049
[O:1]=[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[O:3],-0.641613069
[C:1]#[C:2][C:3]([O:4][O:5])=[C:6]([H:7])[H:8]>>[C:1]#[C:2].[C:3]([O:4][O:5])[C:6]([H:7])[H:8],5.2680427638
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-3.53280026195
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-8.092999085739999
[C:1]([C:2]#[C:4][O:5][H:6])([H:8])([H:9])[H:10].[C:3]#[C:7]>>[C:1]#[C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.83405533302
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:11]([H:12])[H:13].[O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-2.7709197604000004
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:11])[H:12].[O:7]([H:8])[C:9][H:10],3.24478355461
[C:1]=[C:2]([C:3]([H:4])[C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[C:8]([H:9])([H:10])[H:11],2.4546855863
[O:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9],0.96452437125
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[O:10].[H:11],1.67704607894
[C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-0.178892475631
[H:1][C:2]=[C:3]([C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],4.961616987569999
[C:1]=[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2][O:3][O:4].[C:5]([H:6])([H:7])[H:8],3.5232655884699993
[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-6.2383542297800005
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],3.37908419276
[H:12].[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-2.00914842035
[C:4]#[C:10][H:11].[H:1][C:2]([C:3]#[C:5][C:6]([H:7])([H:8])[H:9])([H:12])[H:13]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.92686434676
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-5.39614250634
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.45895878703
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5],7.2947423758
[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.67815892596
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:2]([C:7]=[O:10])([H:8])([H:9])[H:11].[O:1]([C:3]([H:4])[H:5])[H:6],3.3735893116900004
[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.44871678016
[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.99881860291
[H:1][O:2][C:3]([H:4])[H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-0.6209015464800001
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-0.994861310201
[H:1][O:2][C:3]([O:4][C:5]=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12].[H:6]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-4.93981617587
